US08648103B2
(a) 2-Cyano-5-(4-methoxybenzyloxy)pyridine
Sodium hydride (1.44 g, 33 mmol) was dissolved in DMF (20 mL), and 4-methoxybenzyl alcohol (3.74 mL, 33 mmol) was then added to the solution under a nitrogen atmosphere and under ice cooling. The obtained mixture was stirred at room temperature for 30 minutes. Thereafter, 5-bromo-2-cyanopyridine (4.58 g, 25 mmol) was added to the reaction solution, and the obtained mixture was further stirred at room temperature for 30 minutes. Thereafter, water was added to the reaction solution, and it was then extracted with ethyl acetate and washed with water. The water layers were combined and extracted with methylene chloride. The organic layers were combined, were dried over sodium sulfate, and were then concentrated. The obtained residue was recrystallized from ethyl acetate, so as to obtain the title compound (3.57 g, yield: 60%) in the form of yellow crystals.

reactant | Sodium hydride | 33 mmol, 1.44 g | [H-].[Na+]
reactant | 4-methoxybenzyl alcohol | 33 mmol, 3.74 mL | COC1=CC=C(CO)C=C1 | C8H10O2
reactant | 5-bromo-2-cyanopyridine | 25 mmol, 4.58 g | BrC=1C=CC(=NC1)C#N | C6H3BrN2
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-Cyano-5-(4-methoxybenzyloxy)pyridine | 3.57 g, yield: 60% | C(#N)C1=NC=C(C=C1)OCC1=CC=C(C=C1)OC | C14H12N2O2
